US06664265B2
A solution of tert-butyl 2-(2-{[3-(propionylamino)quinolin-4-yl]amino}ethoxy)ethylcarbamate (15.00 g, 37.3 mmol) in 200 mL of EtOH was treated with triethylamine (13.0 mL, 93.2 mmol). The reaction was heated to reflux with stirring. After 3 days, the reaction was concentrated, triturated with ether and filtered to yield 13.78 g of tert-butyl 2-[2-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate as an off white solid.

reactant | tert-butyl 2-(2-{[3-(propionylamino)quinolin-4-yl]amino}ethoxy)ethylcarbamate | 37.3 mmol, 15.00 g | C(CC)(=O)NC=1C=NC2=CC=CC=C2C1NCCOCCNC(OC(C)(C)C)=O | C21H30N4O4
reactant | triethylamine | 93.2 mmol, 13.0 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 200 mL | CCO | C2H6O
product | tert-butyl 2-[2-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethylcarbamate | 13.78 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCNC(OC(C)(C)C)=O | C21H28N4O3
